US06252082B1
1.3. Methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate
250 ml of methanol are saturated with a gaseous hydrochloric acid stream and 25 g (0.11 mol) of 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetic acid are introduced in portions. The mixture is heated at reflux temperature for 4 hours and then the precipitate is filtered and it is dried in an oven. 23 g of product are obtained in the form of yellow crystals.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetic acid | 0.11 mol, 25 g | OC1=C(C(N(C(=C1)C)CC(=O)O)=O)[N+](=O)[O-] | C8H8N2O6
reactant | methanol | 250 ml | CO | CH4O
product | Methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | 23 g, Yield=85% | OC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C9H10N2O6
